US05856314
II. Synthesis of [(5-Amino-2-pyridinyl)aminomethylene]-bis[phosphonic acid] tetraethyl ester
[(5-Nitro-2-pyridinyl)aminomethylene]bis[phosphonic acid] tetraethyl ester (5.29 9, 12.4 mmol), absolute ethanol (100 ml) and 10% palladium on charcoal (1.3 g) are placed in a 500 ml Parr hydrogenation flask and hydrogenated for 4 hours at 40 psi. The reaction mixture is filtered through celite then concentrated under reduced pressure. The resultant solid is carried on without further purification.

reactant | [(5-Nitro-2-pyridinyl)aminomethylene]bis[phosphonic acid] tetraethyl ester | 12.4 mmol | C(C)OP(OCC)(=O)C(P(OCC)(OCC)=O)NC1=NC=C(C=C1)[N+](=O)[O-] | C14H25N3O8P2
catalyst | palladium on charcoal | 1.3 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [(5-Amino-2-pyridinyl)aminomethylene]-bis[phosphonic acid] tetraethyl ester | C(C)OP(OCC)(=O)C(P(OCC)(OCC)=O)NC1=NC=C(C=C1)N | C14H27N3O6P2
